US07842685B2
A slurry of N-(4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-1-hydroxy-2-(hydroxymethyl)butan-2-yl)acetamide (0.205 g, 0.405 mmol) in 6 mL 5N aq. HCl was heated to 120° C. in a sealed tube. A clear yellow solution resulted, with a white precipitate forming after 1 h. The mixture was heated overnight to give a gray mixture, which was cooled and filtered through a glass frit, rinsing with water and EtOH, and the solid was dried in vacuo to give 2-amino-2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)propane-1,3-diol hydrochloride as an off-white solid. MS (ESI) m/z: calculated: 463.2; Observed: 464.1 (M++1).

reactant | N-(4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)-1-hydroxy-2-(hydroxymethyl)butan-2-yl)acetamide | 0.405 mmol, 0.205 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCC(CO)(CO)NC(C)=O | C28H28FN3O3S
reactant | HCl | 5N, 6 mL | Cl | ClH
product | 2-amino-2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)ethyl)propane-1,3-diol hydrochloride | Cl.NC(CO)(CO)CCC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | InChI=1S/C26H26FN3O2S.ClH/c27-20-14-17(10-11-25(28,15-31)16-32)6-7-19(20)23-29-21-8-9-22(30-24(21)33-23)26(12-13-26)18-4-2-1-3-5-18;/h1-9,14,31-32H,10-13,15-16,28H2;1H
